US06160000
Step F: Preparation of Methyl 2-(2-(3-phenyl-7-propylbenzofuran-6-yloxy)-ethyl)-indole-5-acetate
To a solution of the methyl 2-(2-hydroxyethyl)indole-5-acetate (37.6 mg; 0.16 mmol), Ph3P (47 mg; 1.1 eq), 3-phenyl-6-hydroxy-7-propylbenzofuran (45 mg; 1.1 eq) and THF (5 mL) was added diisopropyl azodicarboxylate (35 μL; 1.1 eq), and the mixture was stirred at room temperature overnight. The mixture was concentrated and chromatographed (silica gel, hexane:ethyl acetate::9:1 to 4:1) affording 18.6 mg of the title compound.

reactant | methyl 2-(2-hydroxyethyl)indole-5-acetate | 0.16 mmol, 37.6 mg | OCCC=1NC2=CC=C(C=C2C1)CC(=O)OC | C13H15NO3
reactant | Ph3P | 47 mg, 1.1 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-phenyl-6-hydroxy-7-propylbenzofuran | 45 mg, 1.1 eq | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2CCC)O | C17H16O2
reactant | diisopropyl azodicarboxylate | 35 μL, 1.1 eq | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 2-(2-(3-phenyl-7-propylbenzofuran-6-yloxy)-ethyl)-indole-5-acetate | 18.6 mg | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2CCC)OCCC=2NC1=CC=C(C=C1C2)CC(=O)OC | C30H29NO4
